US08431569B2
Step 2. 7-Chloro-1-{[(1R,2R)-2-methyl-4-oxocyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile
To a stirred solution of 7-chloro-1-{[(7R,8R)-7-methyl-1,4-dioxaspiro[4.5]dec-8-yl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile (147 mg, 0.37 mmol) in acetone (15 mL) was added pTsOH.H2O (176 mg, 0.93 mmol). The mixture was left to stir overnight, diluted with EtOAc, and washed with aqueous sodium bicarbonate solution. The organic layer was dried (sodium sulfate), and concentrated to afford the title compound. LRMS (APCI) calc'd for (C19H17ClN4O) [M+H]+, 353.1. found 353.0.

reactant | 7-chloro-1-{[(7R,8R)-7-methyl-1,4-dioxaspiro[4.5]dec-8-yl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.37 mmol, 147 mg | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@H]3[C@@H](CC1(OCCO1)CC3)C)C#N | C21H21ClN4O2
reactant | pTsOH.H2O | 0.93 mmol, 176 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Chloro-1-{[(1R,2R)-2-methyl-4-oxocyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@H]3[C@@H](CC(CC3)=O)C)C#N | C19H17ClN4O
